US06361931B1
To a solution of 4-nitro-3-isopropoxy-ethylbenzoate (11.85 g, 0.047 mol) in ethanol (200 mL) was added a solution of potassium hydroxide (2.6 g, 0.047 mol) in water (5 mL). The reaction mixture was heated to reflux for 2 hours. The ethanol volume was reduced to 100 mL and the mixture then poured into 1 N HCl (100 mL). The crystals that precipitated, were filtered off and dried in a vacuum oven to yield 9.35 g (88%) of 4-nitro-3-isopropoxybenzoic acid. MS ES− 225, ES+ 223.

reactant | 4-nitro-3-isopropoxy-ethylbenzoate | 0.047 mol, 11.85 g | [N+](=O)([O-])C1=C(C(=C(C(=O)[O-])C=C1)CC)OC(C)C
reactant | potassium hydroxide | 0.047 mol, 2.6 g | [OH-].[K+]
reactant | HCl | 1 N, 100 mL | Cl | ClH
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | water | 5 mL | O | H2O
product | 4-nitro-3-isopropoxybenzoic acid | 9.35 g, 88% | [N+](=O)([O-])C1=C(C=C(C(=O)O)C=C1)OC(C)C | C10H11NO5
